US06472386B1
Synthesis of 4-Hydroxymethyl-2-(3,4,5-trimethoxyphenyl-ethynyl)thiazole
2-(3,4,5-Trimethoxyphenylethynyl)thiazole-4-carboxylic acid (133 mg) was dissolved in THF (8 mL), and to the solution triethylamine (44 mg) was added, and ethyl chloroformate (48 mg) was then added at 0° C. to stir the mixture for 15 minutes. The reaction mixture was filtered, an aqueous solution (2 mL) of sodium borohydride (16 mg) was added to the filtrate, and the resultant mixture was stirred for 30 minutes. Water was added to the reaction mixture, the resultant mixture was extracted with ethyl acetate. The resultant organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After concentrating the organic layer under reduced pressure, the residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:1 to 1:2) to obtain the title compound.

reactant | 2-(3,4,5-Trimethoxyphenylethynyl)thiazole-4-carboxylic acid | 133 mg | COC=1C=C(C=C(C1OC)OC)C#CC=1SC=C(N1)C(=O)O | C15H13NO5S
reactant | triethylamine | 44 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 48 mg | ClC(=O)OCC | C3H5ClO2
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-Hydroxymethyl-2-(3,4,5-trimethoxyphenyl-ethynyl)thiazole | OCC=1N=C(SC1)C#CC1=CC(=C(C(=C1)OC)OC)OC | C15H15NO4S
